US06753322B2
[Cyclohexyl(isopropyl)amino]acetonitrile
Prepared from N-isopropylcyclohexylamine and hydroxyacetonitrile by a similar method to Preparation 24.

reactant | N-isopropylcyclohexylamine | C(C)(C)NC1CCCCC1 | C9H19N
reactant | hydroxyacetonitrile | OCC#N | C2H3NO
product | [Cyclohexyl(isopropyl)amino]acetonitrile | C1(CCCCC1)N(C(C)C)CC#N | C11H20N2
